US07728030B2
N-[(1R,2S)-1-(4-cyclopropylsulfanylphenyl)-1-[1-(4-fluorophenyl)indazol-5-yl]oxy-propan-2-yl]-2,2,2-trifluoro-acetamide
(1R,2S)-1-{[1-(4-Fluorophenyl)-1H-indazol-5-yl]oxy}-1-[4-(cyclopropylthio)phenyl]propan-2-amine (62 mg, 0.14 mmol) was dissolved in MeOH (2 mL), 1,1,3,3-tetramethylguanidine (100 μL, 0.8 mmol) and ethyl trifluoroacetate (83 μL, 0.7 mmol) was added. The mixture was stirred at r.t. for 2 h, the solvents was removed by evaporation and the residual material was treated with water and a few drops of dilute HCl(aq) until slightly acidic. The formed slurry was extracted with DCM and EtOAc, the combined organic phases was concentrated and purified by semi-preparative HPLC using a Kromasil® C18 250×20 mm, 5 μm column. Flow 10 mL/min, 15 min gradient of 50%-90% MeCN in water followed by isocratic final concentration until product had eluted. UV=254 nm was used for detection. Fractions with product was combined and lyophilized to afford the title compound as a colourless solid.

reactant | (1R,2S)-1-{[1-(4-Fluorophenyl)-1H-indazol-5-yl]oxy}-1-[4-(cyclopropylthio)phenyl]propan-2-amine | 0.14 mmol, 62 mg | FC1=CC=C(C=C1)N1N=CC2=CC(=CC=C12)O[C@@H]([C@H](C)N)C1=CC=C(C=C1)SC1CC1 | C25H24FN3OS
reactant | 1,1,3,3-tetramethylguanidine | 0.8 mmol, 100 μL | CN(C(=N)N(C)C)C | C5H13N3
reactant | ethyl trifluoroacetate | 0.7 mmol, 83 μL | FC(C(=O)OCC)(F)F | C4H5F3O2
solvent | MeOH | 2 mL | CO | CH4O
product | N-[(1R,2S)-1-(4-cyclopropylsulfanylphenyl)-1-[1-(4-fluorophenyl)indazol-5-yl]oxy-propan-2-yl]-2,2,2-trifluoro-acetamide | C1(CC1)SC1=CC=C(C=C1)[C@H]([C@H](C)NC(C(F)(F)F)=O)OC=1C=C2C=NN(C2=CC1)C1=CC=C(C=C1)F | C27H23F4N3O2S
